US06258961B1
[2-(2-thienyl)ethylamino](2-chlorophenyl)acetonitrile hydrobromide
13.8 g (0.05 mol) of [2-(2-thienyl)ethylamino](2-chlorophenyl)acetonitrile, prepared according to example 1 or 2, is dissolved in 30 ml of ethanol, to the solution 40 ml of 20% aqueous hydrogen bromide solution is added. The product which precipitates within a few minutes is collected, washed with ethyl acetate and then they are dried. Weight: 14 g (78.2%), mp.: 144-145° C. The product was identified by elemental analysis, IR spectrum and 1H-NMR investigation.

reactant | [2-(2-thienyl)ethylamino](2-chlorophenyl)acetonitrile | 0.05 mol, 13.8 g | S1C(=CC=C1)CCNC(C#N)C1=C(C=CC=C1)Cl | C14H13ClN2S
reactant | hydrogen bromide | 40 ml | Br | BrH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | [2-(2-thienyl)ethylamino](2-chlorophenyl)acetonitrile hydrobromide | Br.S1C(=CC=C1)CCNC(C#N)C1=C(C=CC=C1)Cl | InChI=1S/C14H13ClN2S.BrH/c15-13-6-2-1-5-12(13)14(10-16)17-8-7-11-4-3-9-18-11;/h1-6,9,14,17H,7-8H2;1H
